US08871782B2
A modification of the general method described in Part D of Example 30 was followed using 2-butyl-1-methyl-1H-imidazo[4,5-c]quinolin-8-ol (1.2 g, 4.7 mmol) in lieu of 2-ethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol and 4-(5-bromopentanoyl)morpholine (3.7 mmol) in lieu of 4-(2-bromoacetyl)morpholine. After the reaction was heated overnight, an analysis by TLC indicated the presence of starting material. Additional 4-(5-bromopentanoyl)morpholine (2.2 g) and cesium carbonate (0.5 g) were added, and the reaction was heated at 80° C. overnight. After the solution was concentrated, the residue was further dried under high vacuum overnight and then dissolved in ethyl acetate. The resulting solution was washed with water and concentrated under reduced pressure. The solid was purified by column chromatography on silica gel (eluting with 90:10 dichloromethane:methanol) to provide an oil, which was stirred with diethyl ether and allowed to stand over three days in a refrigerator. A precipitate formed, which was isolated by filtration to provide 0.770 g of 2-butyl-1-methyl-8-[(5-morpholin-4-yl-5-oxopentyl)oxy]-1H-imidazo[4,5-c]quinoline as pale yellow crystals.

reactant | 2-butyl-1-methyl-1H-imidazo[4,5-c]quinolin-8-ol | 4.7 mmol, 1.2 g | C(CCC)C=1N(C2=C(C=NC=3C=CC(=CC23)O)N1)C | C15H17N3O
reactant | 2-ethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | C(C)C=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CC(C)C | C16H19N3O
reactant | 4-(5-bromopentanoyl)morpholine | 3.7 mmol | BrCCCCC(=O)N1CCOCC1 | C9H16BrNO2
reactant | 4-(2-bromoacetyl)morpholine | BrCC(=O)N1CCOCC1 | C6H10BrNO2
reactant | 4-(5-bromopentanoyl)morpholine | 2.2 g | BrCCCCC(=O)N1CCOCC1 | C9H16BrNO2
reactant | cesium carbonate | 0.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-butyl-1-methyl-8-[(5-morpholin-4-yl-5-oxopentyl)oxy]-1H-imidazo[4,5-c]quinoline | 0.770 g | C(CCC)C=1N(C2=C(C=NC=3C=CC(=CC23)OCCCCC(=O)N2CCOCC2)N1)C | C24H32N4O3
